US07592456B2
A solution of diisobutylaluminium hydride (1M in dichloromethane, 700 μL, 0.70 mmol) was added to 5-fluoro-2-[6-(phenylsulfonyl)-2-naphthyl]benzonitrile (66 mg, 0.17 mmol) in dichloromethane (2 mL) at −78° C. under nitrogen and allowed to warm to 0° C. during 2 hours. It was quenched with ammonium chloride (3 mL), diluted with water (75 mL) and extracted into ethyl acetate (2×50 mL). These extracts were washed with water and brine then dried (MgSO4), filtered and solvent removed in vacuo to give the crude aldehyde as a foam. This foam (67 mg, 0.17 mmol) was suspended in methanol (4 mL) at 0° C. under nitrogen and sodium borohydride (35 mg, 0.92 mmol) added. It was stirred at this temperature for 30 minutes then allowed to return to ambient temperature over 30 minutes. Water (100 mL) was added and the mixture extracted with ethyl acetate (3×30 mL). These extracts were washed with water and brine then dried (MgSO4), filtered and solvent removed in vacuo. Purification by flash column chromatography eluting with a 10-40% ethyl acetate/isohexane gradient gave {5-fluoro-2-[6-(phenylsulfonyl)-2-naphthyl]phenyl}methanol (31 mg, 46%). 1H NMR (500 MHz, CDCl3) δ 8.62 (1H, s), 8.03-8.01 (3H, m), 7.94 (1H, d, J=8.6 Hz), 7.90 (1H, dd, J=1.7, 8.7 Hz), 7.82 (1H, s), 7.60-7.50 (4H, m), 7.35 (1H, dd, J=2.5, 9.6 Hz), 7.29 (1H, dd, J=5.6, 8.4 Hz), 7.11-7.05 (1H, m), 4.60 (2H, d, J=5.1 Hz), 1.67 (1H, t, J=5.5 Hz); m/z (ES+) 393 [MH+].

reactant | diisobutylaluminium hydride | 0.70 mmol, 1M, 700 μL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | 5-fluoro-2-[6-(phenylsulfonyl)-2-naphthyl]benzonitrile | 0.17 mmol, 66 mg | FC=1C=CC(=C(C#N)C1)C1=CC2=CC=C(C=C2C=C1)S(=O)(=O)C1=CC=CC=C1 | C23H14FNO2S
reactant | sodium borohydride | 0.92 mmol, 35 mg | [BH4-].[Na+]
reactant | Water | 100 mL | O | H2O
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | methanol | 4 mL | CO | CH4O
product | {5-fluoro-2-[6-(phenylsulfonyl)-2-naphthyl]phenyl}methanol | 31 mg, 46% | FC=1C=CC(=C(C1)CO)C1=CC2=CC=C(C=C2C=C1)S(=O)(=O)C1=CC=CC=C1 | C23H17FO3S
